US07067537B2
Production of 4-methyl-3-[4-(pyridin-4-yl)-1,3-thiazol-2-yl]pyridine
By the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(pyridin-4-yl)ethanone hydrobromate (460 mg) and 4-methylpyridine-3-thiocarboxamide (248 mg), the title compound (99 mg) was obtained as colorless powder crystals.

reactant | 2-bromo-1-(pyridin-4-yl)ethanone | 460 mg | BrCC(=O)C1=CC=NC=C1 | C7H6BrNO
reactant | 4-methylpyridine-3-thiocarboxamide | 248 mg | CC1=C(C=NC=C1)C(N)=S | C7H8N2S
product | 4-methyl-3-[4-(pyridin-4-yl)-1,3-thiazol-2-yl]pyridine | 99 mg | CC1=C(C=NC=C1)C=1SC=C(N1)C1=CC=NC=C1 | C14H11N3S
